US09120822B2
30% Hydrogen peroxide (17.2 mmol, 5.0 eq) is added dropwise at room temperature to a stirred suspension of 3-benzyloxy-6-methoxy-[1,5]naphthyridine-4-carbonitrile (1.0 g, 3.43 mmol, 1.0 eq) and sodium hydroxide (69 mg, 0.17 mmol, 0.05 eq) in methanol (100 mL). After 1 hour stirring at 70° C., a catalytic amount of manganese dioxide is added to the reaction mixture that is concentrated to give a crude that is purified by column chromatography (silica gel, eluent: petroleum ether:ethyl acetate, 1:1, v/v) to afford 3-benzyloxy-6-methoxy-[1,5]naphthyridine-4-carboxylic acid amide as a white solid (800 mg, 75% yield).

reactant | Hydrogen peroxide | 17.2 mmol, 5.0 eq | OO | H2O2
reactant | 3-benzyloxy-6-methoxy-[1,5]naphthyridine-4-carbonitrile | 3.43 mmol, 1.0 g, 1.0 eq | C(C1=CC=CC=C1)OC=1C=NC2=CC=C(N=C2C1C#N)OC | C17H13N3O2
reactant | sodium hydroxide | 0.17 mmol, 69 mg, 0.05 eq | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 100 mL | CO | CH4O
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
product | 3-benzyloxy-6-methoxy-[1,5]naphthyridine-4-carboxylic acid amide | 800 mg, 75% yield | C(C1=CC=CC=C1)OC=1C=NC2=CC=C(N=C2C1C(=O)N)OC | C17H15N3O3
